US04902332
Preparation of 1(4'-chlorophenyl)-3-hydroxy-4-methyl-3-(pyrimidin-5-yl)-pent-1-yne.
1(4'-Chlorophenyl)ethyne (1.43g:0.01 mole) was dissolved in tetrahydrofuran (10 ml) under nitrogen and cooled to -35° C. Butyllithium was added (6.5 ml of 1.6M solution:0.0104 mole) causing the colour to change. The mixture was stirred for 1/2 hour during which time it thickened and the colour changed to pink (from purple). Addition of a solution of chlorotanium triisopropoxide (10.6 ml or a 1 molar solution:0.0106 mole) caused the colour to change to yellow and the mixture was stirred for 20 minutes. The mixture was cooled to -60° C. and a solution of 2-methyl 1(pyrimidin-5-yl)propan-1-one in tetrahydrofuran (10 ml) was added and the reaction mixture allowed to warm up to room temperature within the cold bath. A solution of ammonium chloride in water (20%) was added and the mixture filtered. The aqueous was extracted with ethyl acetate (×3), washed (with water then brine), dried and the solvent removed in vacuo. The product was passed through silica (in ether) and then titurated with pentane and ether (0.467g: off white solid).

reactant | 1(4'-Chlorophenyl)ethyne | 0.01 mole, 1.43g | ClC1=CC=C(C=C1)C#C | C8H5Cl
reactant | Butyllithium | C(CCC)[Li]
reactant | 2-methyl 1(pyrimidin-5-yl)propan-1-one | CC(C(=O)C=1C=NC=NC1)C | C8H10N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1(4'-chlorophenyl)-3-hydroxy-4-methyl-3-(pyrimidin-5-yl)-pent-1-yne | ClC1=CC=C(C=C1)C#CC(C(C)C)(C=1C=NC=NC1)O | C16H15ClN2O
